US04985559
Preparation of γ-10-(2-acetylphenothiazinyl-β-hydroxypropyl methacrylate (MHART)
0.20 g (0.0086 mol) of sodium hydride was added carefully to a solution of 2-acetylphenothiazine (2 g, 0.0083 mol) in 150 ml tetrahydrofuran under agitation below 5° C. A solution of glycidyl methacrylate (1.88 g, 0.013 mol) in 10 ml tetrahydrofuran was added dropwise to above solution. The reaction was kept at room temperature for 48 hours. After the solvent was removed, the residue was washed with dilute HCl and water. Dried. 2.3 g of product was obtained by recrystallization with ethyl acetate.

reactant | sodium hydride | 0.0086 mol, 0.20 g | [H-].[Na+]
reactant | 2-acetylphenothiazine | 0.0083 mol, 2 g | C(C)(=O)C1=CC=2NC3=CC=CC=C3SC2C=C1 | C14H11NOS
reactant | glycidyl methacrylate | 0.013 mol, 1.88 g | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-acetylphenothiazinyl-β-hydroxypropyl methacrylate | 2.3 g | C(C(=C)C)(=O)OCC(CC1=C(C=CC=2SC3=CC=CC=C3NC12)C(C)=O)O | C21H21NO4S
